US04409017
Ethyl 2-{4-[N-(1-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (2.87 g), in a solution of potassium hydroxide (0.42 g) in ethanol, was hydrogenated at atmospheric pressure over a palladium on carbon catalyst. After uptake of the theoretical amount of hydrogen the solution was filtered to remove the catalyst and the solvent was removed by distillation under reduced pressure. The product was purified by column chromatography over silical gel (eluant dichloromethane/ethylacetate; 99:1) to give ethyl 2-{4-[N-(isoquinolin-3-yl)-N-methylamino]phenoxy}propionate (0.38 g) as a green oil. The assigned structure was confirmed by proton magnetic resonance spectroscopy and mass spectrometry. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.20 (3H, t); 1.60 (3H, d); 3.45 (3H, s); 4.20 (2H, q); 4.70 (1H, q); 6.60 (1H, s); 6.8-7.4 (7H, m); 7.65 (1H, d); 8.90 (1H, s).

reactant | Ethyl 2-{4-[N-(1-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 2.87 g | ClC1=NC(=CC2=CC=CC=C12)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H21ClN2O3
reactant | potassium hydroxide | 0.42 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | ethyl 2-{4-[N-(isoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 0.38 g | C1=NC(=CC2=CC=CC=C12)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H22N2O3
